US04783466
To solution of 4-hydroxy-6-methyl-2-(6-m-tolyl-2-pyridinyl)pyrimidine (5 g) in toluene (100 ml), was added phosphoryl chloride (5 g). The mixture was heated under refluxing for one hourand left to stand to room temperature. Aqueous sodium carbonate solution was added thereto until the reaction solution became about pH 8 to be separated into two layers. Toluene layer was washed with water and dried over anhydrous magnesium sulfate. The toluene layer was concentrated under reduced pressure to obtain 4-chloro-6-methyl-2-(6-m-tolyl-2-pyridinyl)pyrimidine (4.9 g, yield 92%).

reactant | 4-hydroxy-6-methyl-2-(6-m-tolyl-2-pyridinyl)pyrimidine | 5 g | OC1=NC(=NC(=C1)C)C1=NC(=CC=C1)C=1C=C(C=CC1)C | C17H15N3O
reactant | phosphoryl chloride | 5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-methyl-2-(6-m-tolyl-2-pyridinyl)pyrimidine | 4.9 g, yield 92% | ClC1=NC(=NC(=C1)C)C1=NC(=CC=C1)C=1C=C(C=CC1)C | C17H14ClN3
